US05194631
Production of meta-methylbenzoic acid
In an autoclave made of metal were placed 2.53 g of meta-chlorotoluene, 35.5 mg of palladium chloride, 426 mg of bisdiphenylphosphinobutane and 3.04 g of potassium carbonate. The air in the autoclave was replaced with carbon monoxide introduced thereinto in several times, after which carbon monoxide was further introduced to adjust its pressure therein to 50 kg/cm2. The reaction was carried out with stirring for 3 hours on a salt bath at a bath temperature of 210° C. After completion of the reaction, the reaction mixture was cooled to room temperature and water was added. The aqueous layer was separated, after which acid was added thereto and the deposited crystals were collected by filtration and dried. Thus, 1.10 g of the desired compound meta-methylbenzoic acid was obtained.

reactant | meta-chlorotoluene | 2.53 g | ClC=1C=C(C=CC1)C | C7H7Cl
reactant | bisdiphenylphosphinobutane | 426 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C(C(C)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C28H28P2
reactant | potassium carbonate | 3.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | carbon monoxide | [C]=O | CO
catalyst | palladium chloride | 35.5 mg | [Pd](Cl)Cl
solvent | water | O | H2O
product | meta-methylbenzoic acid | 1.10 g | CC=1C=C(C(=O)O)C=CC1 | C8H8O2
